US08563546B2
Synthesis of 1-((6-chloropyridin-3-yl)methyl)-2,3,5,6,7,8-hexahydro-1H-5,8-epoxyimidazo[1,2-a]azepine-9-carbonitrile (Compound 64)
To a 50 ml round bottom flask was added 1.17 g (0.005 mol) 2-(1-((6-chloropyridin-3-yl)methyl)imidazolidin-2-ylidene)acetonitrile, 30 ml dry acetonitrile and 0.860 g (0.01 mol) succinaldehyde and catalytic concentrated HCl. The reaction was stirred at r.t. and monitored by TLC. After completion, the mixture was evaporated to remove solvent and purified by column chromatography to afford final product as faint yellow powder with 66% yield.

reactant | 2-(1-((6-chloropyridin-3-yl)methyl)imidazolidin-2-ylidene)acetonitrile | 0.005 mol, 1.17 g | ClC1=CC=C(C=N1)CN1C(NCC1)=CC#N | C11H11ClN4
reactant | succinaldehyde | 0.01 mol, 0.860 g | C(CCC=O)=O | C4H6O2
reactant | HCl | Cl | ClH
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 1-((6-chloropyridin-3-yl)methyl)-2,3,5,6,7,8-hexahydro-1H-5,8-epoxyimidazo[1,2-a]azepine-9-carbonitrile | 66% yield | ClC1=CC=C(C=N1)CN1CCN2C1=C(C1CCC2O1)C#N | C15H15ClN4O
